US06013809
(3RS, 4RS)-3-dimethylaminomethyl-4-(3-methoxy-phenyl)-thiochroman-4-ol
The corresponding Grignard reagent was prepared from 0.73 g magnesium turnings and 5.61 g 1-bromo-3-methoxy-benzene in 20 ml of dry tetrahydrofuran, with gentle boiling. A solution of 4.43 g (RS)-3-dimethylaminomethyl-thiochroman-4-one in 10 ml dry tetrahydrofuran was added drop-wise thereto at +5 to 10° C. The batch was subsequently stirred for 6 hours at 20° C. and was then decomposed with 10 ml of a saturated ammonium chloride solution. The batch was extracted three times with diethyl ether, and the combined extracts were washed with a saturated sodium chloride solution and dried over sodium sulphate. The crude product which remained after evaporating off the volatile constituents was purified by column chromatography using ethyl acetate as the elutant, whereupon 3.68 g (55.8% theoretical) of the title compound was obtained.

reactant | magnesium | 0.73 g | [Mg] | Mg
reactant | 1-bromo-3-methoxy-benzene | 5.61 g | BrC1=CC(=CC=C1)OC | C7H7BrO
reactant | (RS)-3-dimethylaminomethyl-thiochroman-4-one | 4.43 g | CN(C)CC1CSC2=CC=CC=C2C1=O | C12H15NOS
reactant | ammonium chloride | 10 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (3RS, 4RS)-3-dimethylaminomethyl-4-(3-methoxy-phenyl)-thiochroman-4-ol | CN(C)CC1CSC2=CC=CC=C2C1(O)C1=CC(=CC=C1)OC | C19H23NO2S
